* Subcircuit LT1002
.subckt LT1002 net-_r3-pad1_ net-_r5-pad1_ net-_r2-pad1_ net-_r1-pad1_ net-_j1-pad2_ net-_q33-pad3_ net-_c1-pad1_ net-_r21-pad1_ net-_r23-pad1_ net-_r20-pad1_ net-_r19-pad1_ net-_j2-pad2_ net-_q69-pad3_ net-_c5-pad1_ 
.title kicad schematic
.include D.lib
.include NPN.lib
.include PNP.lib
.include NJF.lib
q16 net-_q12-pad2_ net-_j1-pad3_ net-_j1-pad2_ Q2N2222
j1 net-_c1-pad1_ net-_j1-pad2_ net-_j1-pad3_ J2N3819
r7 net-_q12-pad2_ net-_j1-pad3_ 180
q12 net-_q11-pad3_ net-_q12-pad2_ net-_j1-pad2_ Q2N2222
q18 net-_q15-pad2_ net-_q12-pad2_ net-_j1-pad2_ Q2N2222
q19 net-_q19-pad1_ net-_q12-pad2_ net-_j1-pad2_ Q2N2222
q3 net-_c2-pad1_ net-_d5-pad1_ net-_q3-pad3_ Q2N2222
q4 net-_q3-pad3_ net-_q1-pad2_ net-_q4-pad3_ Q2N2222
q2 net-_q1-pad2_ net-_q1-pad2_ net-_d5-pad1_ Q2N2907A
q1 net-_d1-pad1_ net-_q1-pad2_ net-_d5-pad1_ Q2N2907A
r4 net-_c2-pad1_ net-_r3-pad1_ 40k
r3 net-_r3-pad1_ net-_c1-pad1_ 6k
r6 net-_c1-pad2_ net-_r5-pad1_ 40k
q6 net-_q4-pad3_ net-_d1-pad1_ net-_q11-pad3_ Q2N2222
r5 net-_r5-pad1_ net-_c1-pad1_ 6k
q15 net-_d5-pad1_ net-_q15-pad2_ net-_c1-pad1_ Q2N2907A
c1 net-_c1-pad1_ net-_c1-pad2_ 0.1u
q7 net-_j1-pad2_ net-_q11-pad3_ net-_d6-pad2_ Q2N2907A
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d3 net-_d3-pad1_ net-_d1-pad1_ 1N4148
q5 net-_q4-pad3_ net-_d1-pad1_ net-_q11-pad3_ Q2N2222
r2 net-_r2-pad1_ net-_d2-pad2_ 500
r1 net-_r1-pad1_ net-_d1-pad1_ 500
d2 net-_d1-pad2_ net-_d2-pad2_ 1N4148
d4 net-_d2-pad2_ net-_d3-pad1_ 1N4148
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
d5 net-_d5-pad1_ net-_d5-pad2_ 1N4148
q9 net-_c1-pad2_ net-_d5-pad1_ net-_q10-pad1_ Q2N2222
q8 net-_q10-pad3_ net-_d2-pad2_ net-_q11-pad3_ Q2N2222
d6 net-_d5-pad2_ net-_d6-pad2_ 1N4148
q11 net-_q10-pad3_ net-_d2-pad2_ net-_q11-pad3_ Q2N2222
q17 net-_q15-pad2_ net-_q15-pad2_ net-_c1-pad1_ Q2N2907A
q14 net-_d2-pad2_ net-_q10-pad2_ net-_d5-pad1_ Q2N2907A
q13 net-_q10-pad2_ net-_q10-pad2_ net-_d5-pad1_ Q2N2907A
r9 net-_j1-pad2_ net-_q23-pad3_ 2k
q23 net-_q23-pad1_ net-_d7-pad1_ net-_q23-pad3_ Q2N2222
d7 net-_d7-pad1_ net-_d7-pad2_ 1N4148
r8 net-_j1-pad2_ net-_d7-pad2_ 2k
q25 net-_q24-pad2_ net-_q12-pad2_ net-_j1-pad2_ Q2N2222
q20 net-_c1-pad1_ net-_c2-pad1_ net-_q19-pad1_ Q2N2222
q21 net-_d7-pad1_ net-_q19-pad1_ net-_q21-pad3_ Q2N2907A
q24 net-_q23-pad1_ net-_q24-pad2_ net-_q21-pad3_ Q2N2907A
q26 net-_c1-pad1_ net-_c1-pad2_ net-_q24-pad2_ Q2N2222
c3 net-_c2-pad1_ net-_c3-pad2_ 30p
c2 net-_c2-pad1_ net-_c2-pad2_ 55p
q22 net-_q21-pad3_ net-_q15-pad2_ net-_c1-pad1_ Q2N2907A
r10 net-_q23-pad1_ net-_c3-pad2_ 3k
c4 net-_c3-pad2_ net-_c4-pad2_ 20p
r11 net-_c2-pad2_ net-_c4-pad2_ 3k
q31 net-_c1-pad1_ net-_q28-pad1_ net-_d9-pad1_ Q2N2222
q28 net-_q28-pad1_ net-_q15-pad2_ net-_c1-pad1_ Q2N2907A
r14 net-_c4-pad2_ net-_c1-pad1_ 25k
r13 net-_c4-pad2_ net-_q28-pad1_ 1.5k
r12 net-_j1-pad2_ net-_d8-pad2_ 8k
q29 net-_c4-pad2_ net-_d8-pad1_ net-_q23-pad1_ Q2N2222
d8 net-_d8-pad1_ net-_d8-pad2_ 1N4148
r16 net-_j1-pad2_ net-_q32-pad3_ 240
q27 net-_c1-pad1_ net-_q23-pad1_ net-_d8-pad1_ Q2N2222
q30 net-_c4-pad2_ net-_d8-pad1_ net-_q30-pad3_ Q2N2222
q32 net-_d9-pad2_ net-_d8-pad1_ net-_q32-pad3_ Q2N2222
r15 net-_j1-pad2_ net-_q30-pad3_ 120
r18 net-_q33-pad3_ net-_q33-pad2_ 20
r17 net-_q34-pad2_ net-_q33-pad3_ 20
q36 net-_c1-pad1_ net-_c4-pad2_ net-_q33-pad2_ Q2N2222
q34 net-_d9-pad2_ net-_q34-pad2_ net-_q33-pad3_ Q2N2907A
d9 net-_d9-pad1_ net-_d9-pad2_ 1N4148
q33 net-_c4-pad2_ net-_q33-pad2_ net-_q33-pad3_ Q2N2222
q35 net-_j1-pad2_ net-_d9-pad2_ net-_q34-pad2_ Q2N2907A
q46 net-_q45-pad3_ net-_q46-pad2_ net-_q44-pad1_ Q2N2222
q55 net-_q55-pad1_ net-_q48-pad2_ net-_j2-pad2_ Q2N2222
q54 net-_q51-pad2_ net-_q48-pad2_ net-_j2-pad2_ Q2N2222
r25 net-_q48-pad2_ net-_j2-pad3_ 180
j2 net-_c5-pad1_ net-_j2-pad2_ net-_j2-pad3_ J2N3819
q52 net-_q48-pad2_ net-_j2-pad3_ net-_j2-pad2_ Q2N2222
d12 net-_d12-pad1_ net-_d10-pad1_ 1N4148
d11 net-_d10-pad2_ net-_d11-pad2_ 1N4148
d13 net-_d11-pad2_ net-_d12-pad1_ 1N4148
d10 net-_d10-pad1_ net-_d10-pad2_ 1N4148
r20 net-_r20-pad1_ net-_d11-pad2_ 500
r19 net-_r19-pad1_ net-_d10-pad1_ 500
d14 net-_d14-pad1_ net-_d14-pad2_ 1N4148
q45 net-_c5-pad2_ net-_d14-pad1_ net-_q45-pad3_ Q2N2222
r22 net-_c6-pad1_ net-_r21-pad1_ 40k
q39 net-_c6-pad1_ net-_d14-pad1_ net-_q39-pad3_ Q2N2222
r21 net-_r21-pad1_ net-_c5-pad1_ 6k
r23 net-_r23-pad1_ net-_c5-pad1_ 6k
r24 net-_c5-pad2_ net-_r23-pad1_ 40k
q51 net-_d14-pad1_ net-_q51-pad2_ net-_c5-pad1_ Q2N2907A
c5 net-_c5-pad1_ net-_c5-pad2_ 0.1u
q44 net-_q44-pad1_ net-_d11-pad2_ net-_q41-pad3_ Q2N2222
q42 net-_q40-pad3_ net-_d10-pad1_ net-_q41-pad3_ Q2N2222
d15 net-_d14-pad2_ net-_d15-pad2_ 1N4148
q43 net-_j2-pad2_ net-_q41-pad3_ net-_d15-pad2_ Q2N2907A
q48 net-_q41-pad3_ net-_q48-pad2_ net-_j2-pad2_ Q2N2222
q41 net-_q40-pad3_ net-_d10-pad1_ net-_q41-pad3_ Q2N2222
q47 net-_q44-pad1_ net-_d11-pad2_ net-_q41-pad3_ Q2N2222
q40 net-_q39-pad3_ net-_q37-pad2_ net-_q40-pad3_ Q2N2222
q38 net-_q37-pad2_ net-_q37-pad2_ net-_d14-pad1_ Q2N2907A
q37 net-_d10-pad1_ net-_q37-pad2_ net-_d14-pad1_ Q2N2907A
q53 net-_q51-pad2_ net-_q51-pad2_ net-_c5-pad1_ Q2N2907A
c6 net-_c6-pad1_ net-_c6-pad2_ 55p
q50 net-_d11-pad2_ net-_q46-pad2_ net-_d14-pad1_ Q2N2907A
q49 net-_q46-pad2_ net-_q46-pad2_ net-_d14-pad1_ Q2N2907A
q57 net-_d16-pad1_ net-_q55-pad1_ net-_q57-pad3_ Q2N2907A
q60 net-_q59-pad1_ net-_q60-pad2_ net-_q57-pad3_ Q2N2907A
q56 net-_c5-pad1_ net-_c6-pad1_ net-_q55-pad1_ Q2N2222
c7 net-_c6-pad1_ net-_c7-pad2_ 30p
q58 net-_q57-pad3_ net-_q51-pad2_ net-_c5-pad1_ Q2N2907A
q62 net-_c5-pad1_ net-_c5-pad2_ net-_q60-pad2_ Q2N2222
r33 net-_j2-pad2_ net-_q66-pad3_ 120
q61 net-_q60-pad2_ net-_q48-pad2_ net-_j2-pad2_ Q2N2222
r30 net-_j2-pad2_ net-_d17-pad2_ 8k
q66 net-_c8-pad2_ net-_d17-pad1_ net-_q66-pad3_ Q2N2222
r34 net-_j2-pad2_ net-_q68-pad3_ 240
q68 net-_d18-pad2_ net-_d17-pad1_ net-_q68-pad3_ Q2N2222
q65 net-_c8-pad2_ net-_d17-pad1_ net-_q59-pad1_ Q2N2222
d17 net-_d17-pad1_ net-_d17-pad2_ 1N4148
q71 net-_j2-pad2_ net-_d18-pad2_ net-_q70-pad2_ Q2N2907A
r35 net-_q70-pad2_ net-_q69-pad3_ 20
q69 net-_c8-pad2_ net-_q69-pad2_ net-_q69-pad3_ Q2N2222
d18 net-_d18-pad1_ net-_d18-pad2_ 1N4148
q70 net-_d18-pad2_ net-_q70-pad2_ net-_q69-pad3_ Q2N2907A
c8 net-_c7-pad2_ net-_c8-pad2_ 20p
r36 net-_q69-pad3_ net-_q69-pad2_ 20
q72 net-_c5-pad1_ net-_c8-pad2_ net-_q69-pad2_ Q2N2222
q63 net-_c5-pad1_ net-_q59-pad1_ net-_d17-pad1_ Q2N2222
q67 net-_c5-pad1_ net-_q64-pad1_ net-_d18-pad1_ Q2N2222
r32 net-_c8-pad2_ net-_c5-pad1_ 25k
q64 net-_q64-pad1_ net-_q51-pad2_ net-_c5-pad1_ Q2N2907A
r29 net-_c6-pad2_ net-_c8-pad2_ 3k
r31 net-_c8-pad2_ net-_q64-pad1_ 1.5k
d16 net-_d16-pad1_ net-_d16-pad2_ 1N4148
r26 net-_j2-pad2_ net-_d16-pad2_ 2k
r27 net-_j2-pad2_ net-_q59-pad3_ 2k
r28 net-_q59-pad1_ net-_c7-pad2_ 3k
q59 net-_q59-pad1_ net-_d16-pad1_ net-_q59-pad3_ Q2N2222
* Control Statements

.ends LT1002